US08686048B2
Intermediate 79: 3′-butoxy-3-fluorobiphenyl-4-amine
The title compound (170 mg) was prepared from 4-bromo-2-fluoroaniline (240 mg, 1.26 mmol) and 3-butoxyphenylboronic acid (310 mg, 1.59 mmol) as a yellow liquid.

reactant | 4-bromo-2-fluoroaniline | 1.26 mmol, 240 mg | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 3-butoxyphenylboronic acid | 1.59 mmol, 310 mg | C(CCC)OC=1C=C(C=CC1)B(O)O | C10H15BO3
product | 3′-butoxy-3-fluorobiphenyl-4-amine | 170 mg | C(CCC)OC=1C=C(C=CC1)C1=CC(=C(C=C1)N)F | C16H18FNO
